US07700655B2
(1) 2-Amino-4-[3-(trifluoromethyl)phenyl]thiazole
Using 3′-(trifluoromethyl)acetophenone and thiourea as the raw materials, the same operation as the Example 395(1) gave the title compound.

reactant | 3′-(trifluoromethyl)acetophenone | FC(C=1C=C(C=CC1)C(C)=O)(F)F | C9H7F3O
reactant | thiourea | NC(=S)N | CH4N2S
product | 2-Amino-4-[3-(trifluoromethyl)phenyl]thiazole | Yield: 94.1% | NC=1SC=C(N1)C1=CC(=CC=C1)C(F)(F)F | C10H7F3N2S
